US04564619
10 Grams of 3-nitrobenzaldehyde and 11 g of 2-chloroethyl acetoacetate were dissolved in 100 ml of toluene, then under an ice-cooled condition, hydrogen chloride gas was introduced into the solution for 2 hours. The reaction mixture was allowed to stand at room temperature for 2 days, and was concentrated. The residue obtained was extracted with chloroform, then the chloroform layer was washed with a saturated sodium chloride aqueous solution and with a saturated sodium hydrogen carbonate aqueous solution and dried with anhydrous magnesium sulfate. Chloroform was removed by distillation and the residue was recrystallized from isopropanol to yield 10 g of 2-chloroethyl 2-(3-nitrobenzyliden)acetoacetate in the form of colorless needle-like crystals.

reactant | 3-nitrobenzaldehyde | [N+](=O)([O-])C=1C=C(C=O)C=CC1 | C7H5NO3
reactant | 2-chloroethyl acetoacetate | 11 g | C(CC(=O)C)(=O)OCCCl | C6H9ClO3
reactant | hydrogen chloride | Cl | ClH
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 2-chloroethyl 2-(3-nitrobenzyliden)acetoacetate | 10 g | [N+](=O)([O-])C=1C=C(C=C(C(=O)OCCCl)C(=O)C)C=CC1 | C13H12ClNO5
